US07947676B2
N-{3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}-3-[2-(4-methylpiperazin-1-yl)ethoxy]-1H-pyrazolo[3,4-d]pyrimidin-4-amine
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-{3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine and N-methylpiperazine to give the title compound in 42% yield; NMR Spectrum: 2.11 (s, 3H), 2.28 (br s, 4H), 2.45 (s, 3H), 2.50 (hidden by DMSO, 4H), 2.80 (t, 2H), 4.44 (t, 2H), 7.20 (d, 1H), 7.26 (br s, 2H), 7.72 (d, 1H), 8.11 (s, 1H), 8.20 (s, 1H), 8.36 (s, 1H), 8.59 (br s, 1H); Mass Spectrum: 495 (MH+).

reactant | 3-(2-chloroethoxy)-N-{3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)Cl | C19H16Cl2N6O2
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | N-{3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}-3-[2-(4-methylpiperazin-1-yl)ethoxy]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 42% yield | ClC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC1=C2C(=NC=N1)NN=C2OCCN2CCN(CC2)C | C24H27ClN8O2
